US04053601
Addition of acetic anhydride to a stirred suspension of 6-[5-amino-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(3H)-pyridazinethione in an aqueous buffer solution at pH 5.5 gave 6-[5-acetamido-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinethione.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-[5-amino-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(3H)-pyridazinethione | NC=1C=CC(=C(C1)C=1C=CC(NN1)=S)OCC(CNC(C)(C)C)O | C17H24N4O2S
product | 6-[5-acetamido-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinethione | C(C)(=O)NC=1C=CC(=C(C1)C=1C=CC(NN1)=S)OCC(CNC(C)(C)C)O | C19H26N4O3S
